US07504408B2
i) Preparation of N,N-dimethyl-2-(prop-2-yn-1-yloxy)acetamide
Prop-2-ynyloxyacetyl chloride (1.74 g) in tetrahydrofuran (20 ml) was added dropwise over 5 min. to a stirred solution of dimethylamine (12 ml of 33% solution in ethanol) in tetrahydrofuran (15 ml) at ambient temperature. After 30 minutes the solvent was evaporated and the residue was partitioned between saturated aqueous sodium bicarbonate (20 ml) and ethyl acetate (30 ml). The aqueous layer was separated and then re-extracted with ethyl acetate (20 ml). The combined ethyl acetate extracts were washed with brine (20 ml), dried over sodium sulphate and then evaporated. There was thus obtained the title compound as a liquid (1.15 g). NMR Spectrum: (CDCl3) 2.47 (t, 1H), 2.96 (s, 3H), 3.02 (s, 3H), 4.27 (s, 2H), 4.33 (d, 2M); Mass Spectrum: M+H+ 142.

reactant | Prop-2-ynyloxyacetyl chloride | 1.74 g | C(C#C)OCC(=O)Cl | C5H5ClO2
reactant | dimethylamine | 12 ml | CNC | C2H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-2-(prop-2-yn-1-yloxy)acetamide | 1.15 g | CN(C(COCC#C)=O)C | C7H11NO2
